US08802688B2
To a solution of methyl 3-cyano-1H-indazole-6-carboxylate (254 mg, 1.26 mmol) in methanol (12 mL) at 0° C. was added a cold solution of urea hydrogen peroxide (1.22 g, 12.6 mmol) in sodium hydroxide (12.6 mL 1M in water, 12.6 mmol). The yellow solution was stirred at room temperature overnight. The mixture was concentrated in vacuo to remove methanol. The pH of the resulting residue was adjusted to ˜4 with 1N hydrochloric acid. A precipitate formed. The mixture was filtered and the solid was dried to afford 3-carbamoyl-1H-indazole-6-carboxylic acid as a brown solid (82 mg, 32%). 1H NMR (400 MHz, DMSO-d6, δ): 13.84 (s, 1 H), 13.04 (br. s., 1 H), 8.20 (d, J=8.4 Hz, 1 H), 8.13-8.16 (m, 1 H), 7.77 (br. s., 1 H), 7.74 (dd, J=8.6, 1.4 Hz, 1 H), 7.38 (br. s., 1 H).

reactant | methyl 3-cyano-1H-indazole-6-carboxylate | 1.26 mmol, 254 mg | C(#N)C1=NNC2=CC(=CC=C12)C(=O)OC | C10H7N3O2
reactant | urea hydrogen peroxide | 12.6 mmol, 1.22 g | OO.NC(=O)N
reactant | sodium hydroxide | 12.6 mmol, 1M, 12.6 mL | [OH-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
product | 3-carbamoyl-1H-indazole-6-carboxylic acid | 82 mg, 32% | C(N)(=O)C1=NNC2=CC(=CC=C12)C(=O)O | C9H7N3O3
